US06900227B2
Preparation of Bis-(4-fluorophenyl)-dichloromethane (EP96008).
From 4-fluorobenzotrifluoride (164 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and fluorobenzene (96 mg, 1 mmol), light yellow oil (377 mg, 138% crude).

reactant | 4-fluorobenzotrifluoride | 1 mmol, 164 mg | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 1 mmol, 96 mg | FC1=CC=CC=C1 | C6H5F
product | Bis-(4-fluorophenyl)-dichloromethane | FC1=CC=C(C=C1)C(Cl)(Cl)C1=CC=C(C=C1)F | C13H8Cl2F2
